US07102008B2
Tetrabutylammonium floride 1M in THF (78 mL, 78 mmol) was added to a solution of 3-[6-(tert-butyl-dimethyl-silanyloxy)-naphthalen-2-yl]-2,2-dimethyl-3-oxo-propionic acid ethyl ester (77.1 mmol) in THF (300 mL) at room temperature for 0.5 h. The reaction was taken up in ethyl acetate, washed with water (2×) and brine, dried over magnesium sulfate, and concentrated to give the 3-(6-Hydroxy-naphthalen-2-yl)-2,2-dimethyl-3-oxo-propionic acid ethyl ester as a crude oil.

reactant | Tetrabutylammonium floride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-[6-(tert-butyl-dimethyl-silanyloxy)-naphthalen-2-yl]-2,2-dimethyl-3-oxo-propionic acid ethyl ester | 77.1 mmol | C(C)OC(C(C(=O)C1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C(C)(C)C)(C)C)=O | C23H32O4Si
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 78 mmol, 78 mL | C1CCOC1 | C4H8O
product | 3-(6-Hydroxy-naphthalen-2-yl)-2,2-dimethyl-3-oxo-propionic acid ethyl ester | C(C)OC(C(C(=O)C1=CC2=CC=C(C=C2C=C1)O)(C)C)=O | C17H18O4
